US07714168B2
According to the same method as that of Production Example 1, 1-methylbutylamine was used in place of 2,2-dimethylpropylamine, 3,5-dimethoxy-4-(2-propynyloxy)benzoyl chloride was used in place of 4-(2-propynyloxy)-3-methoxybenzoyl chloride to obtain N-(1-methylbutyl)-3,5-dimethoxy-4-(2-propynyloxy)benzamide (hereinafter, described as the compound 56 of the present invention) represented by the formula:

reactant | 1-methylbutylamine | CC(CCC)N | C5H13N
reactant | 3,5-dimethoxy-4-(2-propynyloxy)benzoyl chloride | COC=1C=C(C(=O)Cl)C=C(C1OCC#C)OC | C12H11ClO4
product | N-(1-methylbutyl)-3,5-dimethoxy-4-(2-propynyloxy)benzamide | CC(CCC)NC(C1=CC(=C(C(=C1)OC)OCC#C)OC)=O | C17H23NO4
